US04640920
(a) 4-Acetylamino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide
4-Acetylaminobenzenesulphonyl chloride (7.3 g, 0.03 mol) was added portionwise to a well stirred mixture of aqueous sodium carbonate (21.2 g. in 250 ml of water) and 2-aminomethyl-1-ethylpyrrolidine (4.0 g. 0.03 mol) in chloroform (250 ml) at about 10°. The ice bath used for cooling was removed. After 2 hours the chloroform layer was separated, dried (MgSO4) and then evaporated under reduced pressure to give a gum, which slowly crystallised (11.6 g). Recrystallisation from cold ethanol, followed by recrystallisation from water gave the pure title compound m.p. 94°-96° C..

reactant | 4-Acetylaminobenzenesulphonyl chloride | 0.03 mol, 7.3 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | sodium carbonate | 250 ml, 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.03 mol, 4.0 g | NCC1N(CCC1)CC | C7H16N2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Acetylamino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCC1N(CCC1)CC | C15H23N3O3S
